US06051592
At room temperature, a mixture of 1.72 g (5 mmol) of 2-(1-chloro-cyclopropyl)-1(2-chlorophenyl)-3-(5-mercapto-1,2,4-triazol-1-yl)-propan-2-ol in 20 ml of absolute tetrahydrofuran is admixed with stirring with 0.24 g (6 mmol) of sodium hydride (60% strength in paraffin oil) and stirred for 30 minutes. 0.72 ml (10 mmol) of acetyl chloride are then added and the reaction mixture is stirred at room temperature for a further 4 hours. The reaction mixture is then admixed with 1 ml of ethanol and concentrated under reduced pressure. The residue that remains is extracted repeatedly with dichloromethane. The combined organic phases are concentrated under reduced pressure. In this manner, 1.8 g (94% of theory) of 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-acetylmercapto-1,2,4-triazol-1-yl)-propan-2-ol are obtained in the form of an oil.

reactant | 2-(1-chloro-cyclopropyl)-1(2-chlorophenyl)-3-(5-mercapto-1,2,4-triazol-1-yl)-propan-2-ol | 5 mmol, 1.72 g | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1S)O | C14H15Cl2N3OS
reactant | sodium hydride | 6 mmol, 0.24 g | [H-].[Na+]
reactant | acetyl chloride | 10 mmol, 0.72 ml | C(C)(=O)Cl | C2H3ClO
reactant | ethanol | 1 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-acetylmercapto-1,2,4-triazol-1-yl)-propan-2-ol | 1.8 g, 94% | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1SC(C)=O)O | C16H17Cl2N3O2S
